US07531532B2
4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide
4-(2-Fluoro-4-nitrophenoxy)pyridin-2-ylamine (60 mg) was dissolved in tetrahydrofuran (3 ml) under a nitrogen atmosphere, and then triethylamine (0.101 ml) and phenyl chloroformate (0.0908 ml) were added thereto while cooling in an ice water bath, followed by warming to room temperature and stirring for 1.5 hrs. The solution was partitioned between ethyl acetate (50 ml) and a saturated aqueous solution of sodium hydrogencarbonate (30 ml). The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate (30 ml), water (30 ml), brine (30 ml) in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, to which was added N,N-dimethylformamide (3 ml). 4-(Azetidin-1-ylmethyl)piperidine dihydrochloride (192 mg) and triethylamine (0.235 ml) were added thereto, followed by stirring for 8 hrs. The reaction mixture was partitioned between ethyl acetate (100 ml) and a saturated aqueous solution of ammonium chloride (50 ml). The organic layer was washed with a saturated aqueous solution of ammonium chloride (50 ml), water (50 ml), and brine (50 ml), and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, which was then purified by silica gel column chromatography (Fuji Silysia NH, heptane:ethyl acetate=1:1, then ethyl acetate). Fractions containing the target compound were concentrated to provide the titled compound (34 mg) as a pale yellow oil.

reactant | 4-(2-Fluoro-4-nitrophenoxy)pyridin-2-ylamine | 60 mg | FC1=C(OC2=CC(=NC=C2)N)C=CC(=C1)[N+](=O)[O-] | C11H8FN3O3
reactant | phenyl chloroformate | 0.0908 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-(Azetidin-1-ylmethyl)piperidine dihydrochloride | 192 mg | Cl.Cl.N1(CCC1)CC1CCNCC1
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.235 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.101 ml | C(C)N(CC)CC | C6H15N
product | 4-(Azetidin-1-ylmethyl)piperidine-1-carboxylic acid [4-(2-fluoro-4-nitrophenoxy)pyridin-2-yl]amide | 34 mg | FC1=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)CN2CCC2)C=CC(=C1)[N+](=O)[O-] | C21H24FN5O4
